US08431569B2
Step 3. 7-Chloro-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-4-carbonitrile
4-Bromo-7-chloro-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one (35.55 g, 119 mmol), zinc cyanide (9.82 g, 84 mmol), and Pd(PPh3)4 (13.81 g, 11.95 mmol) were combined and stored under vacuum for 20 min before DMF (300 mL, presparged with nitrogen for 1 h) was transferred to the mixture via cannula. The reaction mixture was heated to 90° C. overnight. Additional Pd(PPh3)4 (13.0 g, 11.2 mmol) was added to the mixture, and the resultant mixture was heated to 90° C. for 20 h, cooled to room temperature, and left to stir for 1 d. The reaction mixture was filtered, and washed with DMF. The filtrate was treated with water (15 mL), aged at room temperature for 3 h, treated with additional water (70 mL), and the resultant slurry was left overnight. The mixture was treated with additional water (70 mL), filtered, washed with water, and dried under vacuum. The solid was suspended in EtOAc, aged, filtered, washed with EtOAc, and dried under vacuum to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 12.66 (s, 1H); 12.19 (s, 1H); 8.31 (s, 1H); 8.06 (d, 1H); 7.55 (s, 1H); 7.30 (d, 1H). LRMS (APCI) calc'd for (C12H6ClN3O) [M+H]+, 244.0. found 244.0.

reactant | 4-Bromo-7-chloro-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one | 119 mmol, 35.55 g | BrC1=CNC(C2=C1NC=1C=C(C=CC21)Cl)=O | C11H6BrClN2O
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 84 mmol, 9.82 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 11.95 mmol, 13.81 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 11.2 mmol, 13.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Chloro-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-4-carbonitrile | ClC=1C=CC=2C3=C(NC2C1)C(=CNC3=O)C#N | C12H6ClN3O
